US07902394B2
(a) 5-Bromo-1,2-difluoro-3-[(phenylmethyl)oxy]benzene
A solution of DMF (100 mL), 5-bromo-2,3-difluorophenol (10 g, 47.85 mol), and K2CO3 (7.27 g, 52.63 mol) and benzyl bromide (9 g, 52.63 mol) were combined at 0° C. under N2. The solution was allowed to warm to rt and stirred overnight. H2O, Et3N (2 eq) and EtOAc (5000 mL) were added and the organic layer separated. The aqueous layer was washed with EtOAc (2×) and the combined organic fractions were washed with 1M HCl (2×), sat. aq. NaHCO3 (2×), dried, and concentrated. The crude product was purified by Biotage (gradient 100% hexanes-60% EtOAc/hexanes) to afford 10.08 g of product as an oil.

reactant | 5-bromo-2,3-difluorophenol | 47.85 mol, 10 g | BrC=1C=C(C(=C(C1)O)F)F | C6H3BrF2O
reactant | K2CO3 | 52.63 mol, 7.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 52.63 mol, 9 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Et3N | 2 eq | CCN(CC)CC | C6H15N
solvent | EtOAc | 5000 mL | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1,2-difluoro-3-[(phenylmethyl)oxy]benzene | 10.08 g | BrC=1C=C(C(=C(C1)F)F)OCC1=CC=CC=C1 | C13H9BrF2O
